US06784192B2
1-[(2-Methoxy-3-pyridinyl)methyl]-4-[(E)-2-[2-(cyclopentyloxy)phenyl]-1-ethenyl]piperidine
786 mg of diethyl 2-(cyclopentyloxy)benzylphosphonate was dissolved in 10 ml of tetrahydrofuran. To the mixture was added 281 mg of potassium tert-butoxide, followed by stirring for 15 minutes under ice-cooling. A solution of 500 mg of 1-[(2-methoxy-3-pyridinyl)methyl]-4-piperidinecarboxaldehyde dissolved in 3 ml of tetrahydrofuran was added dropwise thereinto, followed by stirring at room temperature for 2 hours. Ice water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, and the resulting crude product was purified by silica gel column chromatography (n-hexane:ethyl acetate=1:1), to give 473 mg of the title compound as a pale yellow oil.

reactant | diethyl 2-(cyclopentyloxy)benzylphosphonate | 786 mg | C1(CCCC1)OC1=C(CP(OCC)(OCC)=O)C=CC=C1 | C16H25O4P
reactant | potassium tert-butoxide | 281 mg | CC(C)([O-])C.[K+]
reactant | 1-[(2-methoxy-3-pyridinyl)methyl]-4-piperidinecarboxaldehyde | 500 mg | COC1=NC=CC=C1CN1CCC(CC1)C=O | C13H18N2O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 1-[(2-Methoxy-3-pyridinyl)methyl]-4-[(E)-2-[2-(cyclopentyloxy)phenyl]-1-ethenyl]piperidine | 473 mg | COC1=NC=CC=C1CN1CCC(CC1)\C=C\C1=C(C=CC=C1)OC1CCCC1 | C25H32N2O2
